US07358253B2
b) 2-[3-(4-Benzyl-4,7-diaza-spiro[2.5] oct-7-yl)-isoquinolin-1-yl]-acetamide
[3-(4-Benzyl-4,7-diaza-spiro[2.5] oct-7-yl)-isoquinolin-1-yl]-acetic acid ethyl ester (700 mg, 1.68 mmol) is dissolved in dry DMF under an atmosphere of argon. Formamide (224 μl, 254 mg, 5.64 mmol) is added, and the reaction mixture is heated to 105° C. At this temperature, NaOMe (312 μl of a 5.4 M solution in MeOH, 91 mg, 1.68 mmol) is added dropwise during 20 minutes. After 30 minutes at 105° C., TLC analysis indicates complete conversion of starting material. Cooling the reaction mixture to RT is followed by addition of water and extraction with EtOAc. The organic layers are washed with H2O (twice), dried over Na2SO4 and concentrated. The residue is purified by FCC (hexanes/EtOAc 1:1 to 1:3 to 0:100 to EtOAc/MeOH 98:2) to afford the title compound. 1H NMR (DMSO, 400 MHz) δ 0.68-0.70 (m, 2H), 0.82-0.88 (m, 2H), 3.08 (t, J=4.4, 2H), 3.45 (s, 2H), 3.58 (t, J=4.4, 2H), 3.96 (s, 2H), 4.27 (s, 2H), 5.3-5.5 (br, 1H), 6.55-6.7 (br, 1H), 6.72 (s, 1H), 7.26-7.36 (m, 6H), 7.51 (t, J=8.8, 1H), 7.60 d, J=9.9, 1H), 8.02 (d, J=9.9, 1H); ES-MS: 387 [M+H]+.

reactant | [3-(4-Benzyl-4,7-diaza-spiro[2.5] oct-7-yl)-isoquinolin-1-yl]-acetic acid ethyl ester | 1.68 mmol, 700 mg | C(C)OC(CC1=NC(=CC2=CC=CC=C12)N1CCN(C2(CC2)C1)CC1=CC=CC=C1)=O | C26H29N3O2
reactant | Formamide | 5.64 mmol, 224 μl, 254 mg | C(=O)N | CH3NO
reactant | NaOMe | C[O-].[Na+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[3-(4-Benzyl-4,7-diaza-spiro[2.5] oct-7-yl)-isoquinolin-1-yl]-acetamide | C(C1=CC=CC=C1)N1C2(CC2)CN(CC1)C=1N=C(C2=CC=CC=C2C1)CC(=O)N | C24H26N4O
